US04818273
Preparation of N-(2-methoxy-6-trifluoromethylphenyl)-5,7-dihydroxy-1,2,4-triazolo[1,5-a]pyrimidine-2-sulfonamide
Sodium (5.90 g, 257 mmol) was added to 250 ml of absolute ethanol under nitrogen and allowed to react. A 28.67 g, 85.0 mmol sample of N-(2-methoxy-6-trifluoromethylphenyl)-5-amino-1,2,4-triazole-3-sulfonamide and 24.46 g (170 mmol) of dimethyl malonate were added and the mixture heated at reflux with stirring for two days. It was then cooled with an ice bath and the solids present were collected by filtration and washed with hexane. They were then dissolved in about 150 ml of ice water and acidified with conc. hydrochloric acid to obtain 11.95 g, the title compound, which was collected by filtration and dried. The ethanolic solution was concentrated by evaporation and dried by adding toluene and removing volatiles by evaporation under reduced pressure three times. The residue was taken up in ethanol and treated as before with sodium and 16.85 g of dimethyl malonate to obtain another 10.26 g of the title compound. A total of 22.21 g (64.5 percent of theory) of the title compound, which melts at 237°-243° C. with decomposition, was obtained.

reactant | Sodium | 257 mmol, 5.90 g | [Na] | Na
reactant | N-(2-methoxy-6-trifluoromethylphenyl)-5-amino-1,2,4-triazole-3-sulfonamide | COC1=C(C(=CC=C1)C(F)(F)F)NS(=O)(=O)C1=NNC(=N1)N | C10H10F3N5O3S
reactant | dimethyl malonate | 170 mmol, 24.46 g | C(CC(=O)OC)(=O)OC | C5H8O4
solvent | ethanol | 250 ml | C(C)O | C2H6O
product | N-(2-methoxy-6-trifluoromethylphenyl)-5,7-dihydroxy-1,2,4-triazolo[1,5-a]pyrimidine-2-sulfonamide | 10.26 g | COC1=C(C(=CC=C1)C(F)(F)F)NS(=O)(=O)C1=NN2C(N=C(C=C2O)O)=N1 | C13H10F3N5O5S
